US04255446
N-(2-Mercapto-2-methylpropanoyl)-L-cysteine (11.2 g, 0.05 mol) is dissolved in N sodium hydroxide (50 ml) and pivaloyl chloride (17.0 g, 0.13 mol) and aqueous N sodium hydroxide (150 ml) are added dropwise at 0° C. with stirring under a nitrogen atmosphere. After the addition, the mixture is stirred for 1 hour at room temperature and acidified with 6 N hydrochloric acid. The produced oil is extracted with ethyl acetate and the organic layer is washed with water, dried and concentrated to dryness under reduced pressure to yield 3.2 g (16.4%) of S-pivaloyl-N-(S-pivaloyl-2-mercapto-2-methylpropanoyl)-L-cysteine.

reactant | N-(2-Mercapto-2-methylpropanoyl)-L-cysteine | 0.05 mol, 11.2 g | SC(C(=O)N[C@@H](CS)C(=O)O)(C)C | C7H13NO3S2
reactant | pivaloyl chloride | 0.13 mol, 17.0 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | sodium hydroxide | 50 ml | [OH-].[Na+]
solvent | sodium hydroxide | 150 ml | [OH-].[Na+]
product | S-pivaloyl-N-(S-pivaloyl-2-mercapto-2-methylpropanoyl)-L-cysteine | 3.2 g, 16.4% | C(C(C)(C)C)(=O)SC[C@H](NC(C(C)(C)SC(C(C)(C)C)=O)=O)C(=O)O | C17H29NO5S2
